US07572808B2
A. Preparation of 8-chloro-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirred solution of 8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (100 mg, 0.39 mmol) in acetone (10 mL) at room temperature under argon was added 5-(chloromethyl)-2-(trifluoromethyl)pyridine (91 mg, 0.46 mmol), followed by K2CO3 (107 mg, 0.77 mmol). The resulting suspension was heated at reflux overnight. Analysis by HPLC/MS indicated that starting material had been consumed. After cooling the reaction mixture to room temperature, most of the solvent was removed under reduced pressure. Water (15 mL) and EtOAc (15 mL) were added. The layers were separated. The organic layer was dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified by automated silica gel chromatography (eluted with ethyl acetate-hexanes) to obtain 96 mg of the title compound as an off-white solid. HPLC/MS: retention time=3.71 min, [M+H]+=419.

reactant | 8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.39 mmol, 100 mg | ClC=1C=2N(C=CC1C1=CC=C(C=C1)C)C(NN2)=O | C13H10ClN3O
reactant | 5-(chloromethyl)-2-(trifluoromethyl)pyridine | 0.46 mmol, 91 mg | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | K2CO3 | 0.77 mmol, 107 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 8-chloro-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 96 mg | ClC=1C=2N(C=CC1C1=CC=C(C=C1)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C20H14ClF3N4O
